US05922884
Preparation of 1-[2,6-dichloro-4-(4-trifluoromethylphenyl)phenyl]-3-cyano-5-aminopyrazole
A mixture of 1-(2,6-dichloro-4-bromophenyl)-3-cyano-5-aminopyrazole (45 g, prepared according to procedures reported in U.S. Pat. No. 5,232,940), 4-trifluoromethylphenylboronic acid (45 g), 2M of Na2CO3 (75 mL), tris(dibenzylideneacetone)dipalladium (6.4 g), toluene and ethanol was heated at 130° C. for 25 hours. After cooling to 20° C., the mixture was poured into water and extracted with diethyl ether. The ether solutions were combined, dried, filtered and the filtrate concentrated and purified via chromatography. The desired product as a solid (30.6 g, mp 195-199° C.) was obtained.

reactant | 1-(2,6-dichloro-4-bromophenyl)-3-cyano-5-aminopyrazole | ClC1=C(C(=CC(=C1)Br)Cl)N1N=C(C=C1N)C#N | C10H5BrCl2N4
reactant | 4-trifluoromethylphenylboronic acid | 45 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | Na2CO3 | 2M, 75 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 6.4 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 1-[2,6-dichloro-4-(4-trifluoromethylphenyl)phenyl]-3-cyano-5-aminopyrazole | 30.6 g | ClC1=C(C(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)Cl)N1N=C(C=C1N)C#N | C17H9Cl2F3N4
